US08304446B2
2-[7-Fluoro-4-(methyloxy)-1H-indazol-3-yl]-1H-isoindole-1,3(2H)-dione
2,3-Difluoro-6-methoxybenzonitrile (600 mg, 3.5 mmol) (available from JRD Fluorochemicals) was dissolved in dry N-methylpyrrolidinone (3 mL). and then treated with hydrazine hydrate (4 equiv., 0.65 mL) (available from Aldrich) and the resulting mixture was heated in a Biotage microwave vial at high absorption level for 15 minutes at 150° C. Acetone (3 mL) was added, and the solution stirred for 15 minutes and left to stand overnight. The solution was then loaded onto a 50 g SCX-2 cartridge. The column was eluted with methanol, and then 2M ammonia solution in ethanol. The basic fractions were combined and evaporated under reduced pressure. The crude oil obtained was treated with phthalic anhydride (789 mg, 5.3 mmol) (available from Aldrich) and dry 1,4-dioxane (10 mL). The reaction mixture was stirred for 48 hours at 110° C. The dioxane was removed under reduced pressure, and the residue was partitioned between dichloromethane (50 mL) and water (50 mL). The organic phase was separated and the aqueous was further extracted with 50 mL of dichloromethane. The combined organic solutions were dried through an hydrophobic frit, and concentrated under reduced pressure. The residue was purified by chromatography on silica (100 g cartridge) on Flashmaster eluting with a gradient of 0-100% ethyl acetate in cyclohexane over 80 minutes to give the title compound (510 mg, 47%). LCMS (System A) RT=0.98 min, ES+ve m/z 312 (M+H)+.

reactant | 2,3-Difluoro-6-methoxybenzonitrile | 3.5 mmol, 600 mg | FC1=C(C#N)C(=CC=C1F)OC | C8H5F2NO
reactant | hydrazine hydrate | 0.65 mL, 4 equiv. | O.NN
reactant | Acetone | 3 mL | CC(=O)C | C3H6O
reactant | phthalic anhydride | 5.3 mmol, 789 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | N-methylpyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-[7-Fluoro-4-(methyloxy)-1H-indazol-3-yl]-1H-isoindole-1,3(2H)-dione | 510 mg, 47% | FC=1C=CC(=C2C(=NNC12)N1C(C2=CC=CC=C2C1=O)=O)OC | C16H10FN3O3
